US04604131
2,6-Bis(Methylthio)-N-(butylaminocarbonyl)benzenesulfonamide (IX; R1 =R2 =SCH3, R3 =H)
A stirred suspension of 5.0 g (0.02 mol) of 2,6-bis(methylthio)benzenesulfonamide, 8.3 g (0.06 mol) potassium carbonate and 3.4 ml (0.03 mol) n-butyl isocyanate was heated at reflux for four hours. After stirring at 25° overnight, the mixture was poured into ice and 30 ml 10% HCl. The resulting precipitate was collected, washed several times with water and air dried to provide 6.5 g of the title compound, m.p. 151°-154°.

reactant | 2,6-bis(methylthio)benzenesulfonamide | 0.02 mol, 5.0 g | CSC1=C(C(=CC=C1)SC)S(=O)(=O)N | C8H11NO2S3
reactant | potassium carbonate | 0.06 mol, 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-butyl isocyanate | 0.03 mol, 3.4 ml | C(CCC)N=C=O | C5H9NO
solvent | HCl | 30 ml | Cl | ClH
product | 2,6-Bis(Methylthio)-N-(butylaminocarbonyl)benzenesulfonamide | 6.5 g | CSC1=C(C(=CC=C1)SC)S(=O)(=O)NC(=O)NCCCC | C13H20N2O3S3
